### PR TITLE
[Merged by Bors] - feat: lemmas on ordinal multiplication

### PR DESCRIPTION
**Pull request by vihdzp**
Downstreamed from the CGT repo.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 1]
```diff
@@ -602,10 +602,7 @@ instance leftDistribClass : LeftDistribClass Ordinal.{u} :=
     Quotient.inductionOn₃ a b c fun ⟨α, r, _⟩ ⟨β, s, _⟩ ⟨γ, t, _⟩ =>
       Quotient.sound
         ⟨⟨sumProdDistrib _ _ _, by
-          rintro ⟨a₁ | a₁, a₂⟩ ⟨b₁ | b₁, b₂⟩ <;>
-            simp only [Prod.lex_def, Sum.lex_inl_inl, Sum.Lex.sep, Sum.lex_inr_inl, Sum.lex_inr_inr,
-              sumProdDistrib_apply_left, sumProdDistrib_apply_right, reduceCtorEq] <;>
-            simp⟩⟩⟩
+          rintro ⟨a₁ | a₁, a₂⟩ ⟨b₁ | b₁, b₂⟩ <;> simp [Prod.lex_def]⟩⟩⟩
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]: You can also avoid the `rintro`:
```suggestion
      Quotient.sound ⟨⟨sumProdDistrib .., by simp [Prod.lex_def]⟩⟩⟩
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 2]
```diff
@@ -1016,6 +1021,24 @@ theorem mod_mod_of_dvd (a : Ordinal) {b c : Ordinal} (h : c ∣ b) : a % b % c =
 theorem mod_mod (a b : Ordinal) : a % b % b = a % b :=
   mod_mod_of_dvd a dvd_rfl
 
+theorem lt_mul_iff {a b c : Ordinal} : a < b * c ↔ ∃ q < c, ∃ r < b, a = b * q + r := by
+  obtain rfl | hb₀ := eq_or_ne b 0; · simp
+  refine ⟨fun h ↦ ⟨_, (lt_mul_iff_div_lt hb₀).1 h, _, mod_lt a hb₀, (div_add_mod ..).symm⟩, ?_⟩
+  rintro ⟨q, hq, r, hr, rfl⟩
+  apply (add_right_strictMono hr).trans_le
+  simp_rw [← mul_add_one]
+  exact mul_le_mul_right (add_one_le_iff.2 hq) _
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]:
```suggestion
  apply add_lt_add_right hr _ |>.trans_le
  grw [← mul_add_one, add_one_le_iff.2 hq]
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 3]
```diff
@@ -1016,6 +1021,24 @@ theorem mod_mod_of_dvd (a : Ordinal) {b c : Ordinal} (h : c ∣ b) : a % b % c =
...
+
+theorem forall_lt_mul {b c : Ordinal} {P : Ordinal → Prop} :
+    (∀ a < b * c, P a) ↔ ∀ q < c, ∀ r < b, P (b * q + r) := by
+  simp_rw [lt_mul_iff]
+  aesop
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]:
```suggestion
  grind [lt_mul_iff]
```

File: Mathlib/SetTheory/Ordinal/Arithmetic.lean [hunk 4]
```diff
@@ -1016,6 +1021,24 @@ theorem mod_mod_of_dvd (a : Ordinal) {b c : Ordinal} (h : c ∣ b) : a % b % c =
...
+
+theorem exists_lt_mul {b c : Ordinal} {P : Ordinal → Prop} :
+    (∃ a < b * c, P a) ↔ ∃ q < c, ∃ r < b, P (b * q + r) := by
+  simp_rw [lt_mul_iff]
+  aesop
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Arithmetic.lean]:
```suggestion
  grind [lt_mul_iff]
```

**Review by SnirBroshi — APPROVED** [review]
